US05286721
2-(1-Oxopropyl)-1,3-bis(allyloxycarbonylamino)propane (1.1 g) was 1-allyloxycarbonylamino-2-(N-allyloxycarbonylaminomethyl)butan-3-one was obtained from 1-amino-2-aminomethyl-3-hydroxypentane in substantially the same manner as those of Preparations 5 and 7.

reactant | 2-(1-Oxopropyl)-1,3-bis(allyloxycarbonylamino)propane | 1.1 g | O=C(CC)C(CNC(=O)OCC=C)CNC(=O)OCC=C | C14H22N2O5
reactant | 1-allyloxycarbonylamino-2-(N-allyloxycarbonylaminomethyl)butan-3-one | C(C=C)OC(=O)NCC(C(C)=O)CNC(=O)OCC=C | C13H20N2O5
product | 1-amino-2-aminomethyl-3-hydroxypentane | NCC(C(CC)O)CN | C6H16N2O
